*-- pdngen: spice deck generated for chip 'chiplet3' PDN
*-- die chiplet3:  W/H: 0.003/0.003


.subckt chiplet3
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_4_5
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_5_4
*-- p/g port #: 18/18
+nd_1_0_8666_3333

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_666_666 nd_1_0_2000_666 0.016324
rd_1_2_0_0_1 nd_1_0_2000_666 nd_1_0_3333_666 0.016324
rd_1_2_0_0_2 nd_1_0_3333_666 nd_1_0_4666_666 0.016324
rd_1_2_0_0_3 nd_1_0_4666_666 nd_1_0_6000_666 0.016324
rd_1_2_0_0_4 nd_1_0_6000_666 nd_1_0_7333_666 0.016324
rd_1_2_0_0_5 nd_1_0_7333_666 nd_1_0_8666_666 0.016324
rd_1_2_0_1_0 nd_1_0_666_2000 nd_1_0_2000_2000 0.016324
rd_1_2_0_1_1 nd_1_0_2000_2000 nd_1_0_3333_2000 0.016324
rd_1_2_0_1_2 nd_1_0_3333_2000 nd_1_0_4666_2000 0.016324
rd_1_2_0_1_3 nd_1_0_4666_2000 nd_1_0_6000_2000 0.016324
rd_1_2_0_1_4 nd_1_0_6000_2000 nd_1_0_7333_2000 0.016324
rd_1_2_0_1_5 nd_1_0_7333_2000 nd_1_0_8666_2000 0.016324
rd_1_2_0_2_0 nd_1_0_666_3333 nd_1_0_2000_3333 0.016324
rd_1_2_0_2_1 nd_1_0_2000_3333 nd_1_0_3333_3333 0.016324
rd_1_2_0_2_2 nd_1_0_3333_3333 nd_1_0_4666_3333 0.016324
rd_1_2_0_2_3 nd_1_0_4666_3333 nd_1_0_6000_3333 0.016324
rd_1_2_0_2_4 nd_1_0_6000_3333 nd_1_0_7333_3333 0.016324
rd_1_2_0_2_5 nd_1_0_7333_3333 nd_1_0_8666_3333 0.016324
rd_1_2_0_3_0 nd_1_0_666_4666 nd_1_0_2000_4666 0.016324
rd_1_2_0_3_1 nd_1_0_2000_4666 nd_1_0_3333_4666 0.016324
rd_1_2_0_3_2 nd_1_0_3333_4666 nd_1_0_4666_4666 0.016324
rd_1_2_0_3_3 nd_1_0_4666_4666 nd_1_0_6000_4666 0.016324
rd_1_2_0_3_4 nd_1_0_6000_4666 nd_1_0_7333_4666 0.016324
rd_1_2_0_3_5 nd_1_0_7333_4666 nd_1_0_8666_4666 0.016324
rd_1_2_0_4_0 nd_1_0_666_6000 nd_1_0_2000_6000 0.016324
rd_1_2_0_4_1 nd_1_0_2000_6000 nd_1_0_3333_6000 0.016324
rd_1_2_0_4_2 nd_1_0_3333_6000 nd_1_0_4666_6000 0.016324
rd_1_2_0_4_3 nd_1_0_4666_6000 nd_1_0_6000_6000 0.016324
rd_1_2_0_4_4 nd_1_0_6000_6000 nd_1_0_7333_6000 0.016324
rd_1_2_0_4_5 nd_1_0_7333_6000 nd_1_0_8666_6000 0.016324
rd_1_2_0_5_0 nd_1_0_666_7333 nd_1_0_2000_7333 0.016324
rd_1_2_0_5_1 nd_1_0_2000_7333 nd_1_0_3333_7333 0.016324
rd_1_2_0_5_2 nd_1_0_3333_7333 nd_1_0_4666_7333 0.016324
rd_1_2_0_5_3 nd_1_0_4666_7333 nd_1_0_6000_7333 0.016324
rd_1_2_0_5_4 nd_1_0_6000_7333 nd_1_0_7333_7333 0.016324
rd_1_2_0_5_5 nd_1_0_7333_7333 nd_1_0_8666_7333 0.016324
rd_1_2_0_6_0 nd_1_0_666_8666 nd_1_0_2000_8666 0.016324
rd_1_2_0_6_1 nd_1_0_2000_8666 nd_1_0_3333_8666 0.016324
rd_1_2_0_6_2 nd_1_0_3333_8666 nd_1_0_4666_8666 0.016324
rd_1_2_0_6_3 nd_1_0_4666_8666 nd_1_0_6000_8666 0.016324
rd_1_2_0_6_4 nd_1_0_6000_8666 nd_1_0_7333_8666 0.016324
rd_1_2_0_6_5 nd_1_0_7333_8666 nd_1_0_8666_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_666_666 nd_2_0_666_2000 0.016324
rd_2_1_0_0_1 nd_2_0_666_2000 nd_2_0_666_3333 0.016324
rd_2_1_0_0_2 nd_2_0_666_3333 nd_2_0_666_4666 0.016324
rd_2_1_0_0_3 nd_2_0_666_4666 nd_2_0_666_6000 0.016324
rd_2_1_0_0_4 nd_2_0_666_6000 nd_2_0_666_7333 0.016324
rd_2_1_0_0_5 nd_2_0_666_7333 nd_2_0_666_8666 0.016324
rd_2_1_0_1_0 nd_2_0_2000_666 nd_2_0_2000_2000 0.016324
rd_2_1_0_1_1 nd_2_0_2000_2000 nd_2_0_2000_3333 0.016324
rd_2_1_0_1_2 nd_2_0_2000_3333 nd_2_0_2000_4666 0.016324
rd_2_1_0_1_3 nd_2_0_2000_4666 nd_2_0_2000_6000 0.016324
rd_2_1_0_1_4 nd_2_0_2000_6000 nd_2_0_2000_7333 0.016324
rd_2_1_0_1_5 nd_2_0_2000_7333 nd_2_0_2000_8666 0.016324
rd_2_1_0_2_0 nd_2_0_3333_666 nd_2_0_3333_2000 0.016324
rd_2_1_0_2_1 nd_2_0_3333_2000 nd_2_0_3333_3333 0.016324
rd_2_1_0_2_2 nd_2_0_3333_3333 nd_2_0_3333_4666 0.016324
rd_2_1_0_2_3 nd_2_0_3333_4666 nd_2_0_3333_6000 0.016324
rd_2_1_0_2_4 nd_2_0_3333_6000 nd_2_0_3333_7333 0.016324
rd_2_1_0_2_5 nd_2_0_3333_7333 nd_2_0_3333_8666 0.016324
rd_2_1_0_3_0 nd_2_0_4666_666 nd_2_0_4666_2000 0.016324
rd_2_1_0_3_1 nd_2_0_4666_2000 nd_2_0_4666_3333 0.016324
rd_2_1_0_3_2 nd_2_0_4666_3333 nd_2_0_4666_4666 0.016324
rd_2_1_0_3_3 nd_2_0_4666_4666 nd_2_0_4666_6000 0.016324
rd_2_1_0_3_4 nd_2_0_4666_6000 nd_2_0_4666_7333 0.016324
rd_2_1_0_3_5 nd_2_0_4666_7333 nd_2_0_4666_8666 0.016324
rd_2_1_0_4_0 nd_2_0_6000_666 nd_2_0_6000_2000 0.016324
rd_2_1_0_4_1 nd_2_0_6000_2000 nd_2_0_6000_3333 0.016324
rd_2_1_0_4_2 nd_2_0_6000_3333 nd_2_0_6000_4666 0.016324
rd_2_1_0_4_3 nd_2_0_6000_4666 nd_2_0_6000_6000 0.016324
rd_2_1_0_4_4 nd_2_0_6000_6000 nd_2_0_6000_7333 0.016324
rd_2_1_0_4_5 nd_2_0_6000_7333 nd_2_0_6000_8666 0.016324
rd_2_1_0_5_0 nd_2_0_7333_666 nd_2_0_7333_2000 0.016324
rd_2_1_0_5_1 nd_2_0_7333_2000 nd_2_0_7333_3333 0.016324
rd_2_1_0_5_2 nd_2_0_7333_3333 nd_2_0_7333_4666 0.016324
rd_2_1_0_5_3 nd_2_0_7333_4666 nd_2_0_7333_6000 0.016324
rd_2_1_0_5_4 nd_2_0_7333_6000 nd_2_0_7333_7333 0.016324
rd_2_1_0_5_5 nd_2_0_7333_7333 nd_2_0_7333_8666 0.016324
rd_2_1_0_6_0 nd_2_0_8666_666 nd_2_0_8666_2000 0.016324
rd_2_1_0_6_1 nd_2_0_8666_2000 nd_2_0_8666_3333 0.016324
rd_2_1_0_6_2 nd_2_0_8666_3333 nd_2_0_8666_4666 0.016324
rd_2_1_0_6_3 nd_2_0_8666_4666 nd_2_0_8666_6000 0.016324
rd_2_1_0_6_4 nd_2_0_8666_6000 nd_2_0_8666_7333 0.016324
rd_2_1_0_6_5 nd_2_0_8666_7333 nd_2_0_8666_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_666_666 nd_2_0_666_666 0.005
rvd_1_0_0_1 nd_1_0_2000_666 nd_2_0_2000_666 0.005
rvd_1_0_0_2 nd_1_0_3333_666 nd_2_0_3333_666 0.005
rvd_1_0_0_3 nd_1_0_4666_666 nd_2_0_4666_666 0.005
rvd_1_0_0_4 nd_1_0_6000_666 nd_2_0_6000_666 0.005
rvd_1_0_0_5 nd_1_0_7333_666 nd_2_0_7333_666 0.005
rvd_1_0_0_6 nd_1_0_8666_666 nd_2_0_8666_666 0.005
rvd_1_0_1_0 nd_1_0_666_2000 nd_2_0_666_2000 0.005
rvd_1_0_1_1 nd_1_0_2000_2000 nd_2_0_2000_2000 0.005
rvd_1_0_1_2 nd_1_0_3333_2000 nd_2_0_3333_2000 0.005
rvd_1_0_1_3 nd_1_0_4666_2000 nd_2_0_4666_2000 0.005
rvd_1_0_1_4 nd_1_0_6000_2000 nd_2_0_6000_2000 0.005
rvd_1_0_1_5 nd_1_0_7333_2000 nd_2_0_7333_2000 0.005
rvd_1_0_1_6 nd_1_0_8666_2000 nd_2_0_8666_2000 0.005
rvd_1_0_2_0 nd_1_0_666_3333 nd_2_0_666_3333 0.005
rvd_1_0_2_1 nd_1_0_2000_3333 nd_2_0_2000_3333 0.005
rvd_1_0_2_2 nd_1_0_3333_3333 nd_2_0_3333_3333 0.005
rvd_1_0_2_3 nd_1_0_4666_3333 nd_2_0_4666_3333 0.005
rvd_1_0_2_4 nd_1_0_6000_3333 nd_2_0_6000_3333 0.005
rvd_1_0_2_5 nd_1_0_7333_3333 nd_2_0_7333_3333 0.005
rvd_1_0_2_6 nd_1_0_8666_3333 nd_2_0_8666_3333 0.005
rvd_1_0_3_0 nd_1_0_666_4666 nd_2_0_666_4666 0.005
rvd_1_0_3_1 nd_1_0_2000_4666 nd_2_0_2000_4666 0.005
rvd_1_0_3_2 nd_1_0_3333_4666 nd_2_0_3333_4666 0.005
rvd_1_0_3_3 nd_1_0_4666_4666 nd_2_0_4666_4666 0.005
rvd_1_0_3_4 nd_1_0_6000_4666 nd_2_0_6000_4666 0.005
rvd_1_0_3_5 nd_1_0_7333_4666 nd_2_0_7333_4666 0.005
rvd_1_0_3_6 nd_1_0_8666_4666 nd_2_0_8666_4666 0.005
rvd_1_0_4_0 nd_1_0_666_6000 nd_2_0_666_6000 0.005
rvd_1_0_4_1 nd_1_0_2000_6000 nd_2_0_2000_6000 0.005
rvd_1_0_4_2 nd_1_0_3333_6000 nd_2_0_3333_6000 0.005
rvd_1_0_4_3 nd_1_0_4666_6000 nd_2_0_4666_6000 0.005
rvd_1_0_4_4 nd_1_0_6000_6000 nd_2_0_6000_6000 0.005
rvd_1_0_4_5 nd_1_0_7333_6000 nd_2_0_7333_6000 0.005
rvd_1_0_4_6 nd_1_0_8666_6000 nd_2_0_8666_6000 0.005
rvd_1_0_5_0 nd_1_0_666_7333 nd_2_0_666_7333 0.005
rvd_1_0_5_1 nd_1_0_2000_7333 nd_2_0_2000_7333 0.005
rvd_1_0_5_2 nd_1_0_3333_7333 nd_2_0_3333_7333 0.005
rvd_1_0_5_3 nd_1_0_4666_7333 nd_2_0_4666_7333 0.005
rvd_1_0_5_4 nd_1_0_6000_7333 nd_2_0_6000_7333 0.005
rvd_1_0_5_5 nd_1_0_7333_7333 nd_2_0_7333_7333 0.005
rvd_1_0_5_6 nd_1_0_8666_7333 nd_2_0_8666_7333 0.005
rvd_1_0_6_0 nd_1_0_666_8666 nd_2_0_666_8666 0.005
rvd_1_0_6_1 nd_1_0_2000_8666 nd_2_0_2000_8666 0.005
rvd_1_0_6_2 nd_1_0_3333_8666 nd_2_0_3333_8666 0.005
rvd_1_0_6_3 nd_1_0_4666_8666 nd_2_0_4666_8666 0.005
rvd_1_0_6_4 nd_1_0_6000_8666 nd_2_0_6000_8666 0.005
rvd_1_0_6_5 nd_1_0_7333_8666 nd_2_0_7333_8666 0.005
rvd_1_0_6_6 nd_1_0_8666_8666 nd_2_0_8666_8666 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_666_666 0 67.5843
rdesr_0_0_0_0 nd_1_0_666_666 nd_1_0_666_666_ci 67.5843
cd_0_0_0_0 nd_1_0_666_666_ci 0 2.95927e-11
rdload_0_0_0_1 nd_1_0_2000_666 0 61.5893
rdesr_0_0_0_1 nd_1_0_2000_666 nd_1_0_2000_666_ci 61.5893
cd_0_0_0_1 nd_1_0_2000_666_ci 0 3.24732e-11
rdload_0_0_0_2 nd_1_0_3333_666 0 47.7242
rdesr_0_0_0_2 nd_1_0_3333_666 nd_1_0_3333_666_ci 47.7242
cd_0_0_0_2 nd_1_0_3333_666_ci 0 4.19075e-11
rdload_0_0_0_3 nd_1_0_4666_666 0 83.9273
rdesr_0_0_0_3 nd_1_0_4666_666 nd_1_0_4666_666_ci 83.9273
cd_0_0_0_3 nd_1_0_4666_666_ci 0 2.38301e-11
rdload_0_0_0_4 nd_1_0_6000_666 0 74.3869
rdesr_0_0_0_4 nd_1_0_6000_666 nd_1_0_6000_666_ci 74.3869
cd_0_0_0_4 nd_1_0_6000_666_ci 0 2.68865e-11
rdload_0_0_0_5 nd_1_0_7333_666 0 66.483
rdesr_0_0_0_5 nd_1_0_7333_666 nd_1_0_7333_666_ci 66.483
cd_0_0_0_5 nd_1_0_7333_666_ci 0 3.00829e-11
rdload_0_0_0_6 nd_1_0_8666_666 0 59.7008
rdesr_0_0_0_6 nd_1_0_8666_666 nd_1_0_8666_666_ci 59.7008
cd_0_0_0_6 nd_1_0_8666_666_ci 0 3.35004e-11
rdload_0_0_0_7 nd_1_0_666_2000 0 46.7645
rdesr_0_0_0_7 nd_1_0_666_2000 nd_1_0_666_2000_ci 46.7645
cd_0_0_0_7 nd_1_0_666_2000_ci 0 4.27674e-11
rdload_0_0_0_8 nd_1_0_2000_2000 0 82.528
rdesr_0_0_0_8 nd_1_0_2000_2000 nd_1_0_2000_2000_ci 82.528
cd_0_0_0_8 nd_1_0_2000_2000_ci 0 2.42342e-11
rdload_0_0_0_9 nd_1_0_3333_2000 0 72.6649
rdesr_0_0_0_9 nd_1_0_3333_2000 nd_1_0_3333_2000_ci 72.6649
cd_0_0_0_9 nd_1_0_3333_2000_ci 0 2.75236e-11
rdload_0_0_0_10 nd_1_0_4666_2000 0 64.7239
rdesr_0_0_0_10 nd_1_0_4666_2000 nd_1_0_4666_2000_ci 64.7239
cd_0_0_0_10 nd_1_0_4666_2000_ci 0 3.09005e-11
rdload_0_0_0_11 nd_1_0_6000_2000 0 58.4743
rdesr_0_0_0_11 nd_1_0_6000_2000 nd_1_0_6000_2000_ci 58.4743
cd_0_0_0_11 nd_1_0_6000_2000_ci 0 3.42031e-11
rdload_0_0_0_12 nd_1_0_7333_2000 0 53.775
rdesr_0_0_0_12 nd_1_0_7333_2000 nd_1_0_7333_2000_ci 53.775
cd_0_0_0_12 nd_1_0_7333_2000_ci 0 3.7192e-11
rdload_0_0_0_13 nd_1_0_8666_2000 0 79.5859
rdesr_0_0_0_13 nd_1_0_8666_2000 nd_1_0_8666_2000_ci 79.5859
cd_0_0_0_13 nd_1_0_8666_2000_ci 0 2.51301e-11
rdload_0_0_0_14 nd_1_0_666_3333 0 70.7525
rdesr_0_0_0_14 nd_1_0_666_3333 nd_1_0_666_3333_ci 70.7525
cd_0_0_0_14 nd_1_0_666_3333_ci 0 2.82675e-11
rdload_0_0_0_15 nd_1_0_2000_3333 0 63.6278
rdesr_0_0_0_15 nd_1_0_2000_3333 nd_1_0_2000_3333_ci 63.6278
cd_0_0_0_15 nd_1_0_2000_3333_ci 0 3.14328e-11
rdload_0_0_0_16 nd_1_0_3333_3333 0 149.533
rdesr_0_0_0_16 nd_1_0_3333_3333 nd_1_0_3333_3333_ci 149.533
cd_0_0_0_16 nd_1_0_3333_3333_ci 0 1.3375e-11
rdload_0_0_0_17 nd_1_0_4666_3333 0 121.493
rdesr_0_0_0_17 nd_1_0_4666_3333 nd_1_0_4666_3333_ci 121.493
cd_0_0_0_17 nd_1_0_4666_3333_ci 0 1.64619e-11
rdload_0_0_0_18 nd_1_0_6000_3333 0 76.7368
rdesr_0_0_0_18 nd_1_0_6000_3333 nd_1_0_6000_3333_ci 76.7368
cd_0_0_0_18 nd_1_0_6000_3333_ci 0 2.60631e-11
rdload_0_0_0_19 nd_1_0_7333_3333 0 266.478
rdesr_0_0_0_19 nd_1_0_7333_3333 nd_1_0_7333_3333_ci 266.478
cd_0_0_0_19 nd_1_0_7333_3333_ci 0 7.5053e-12
rdload_0_0_0_20 nd_1_0_8666_3333 0 61.7471
rdesr_0_0_0_20 nd_1_0_8666_3333 nd_1_0_8666_3333_ci 61.7471
cd_0_0_0_20 nd_1_0_8666_3333_ci 0 3.23902e-11
rdload_0_0_0_21 nd_1_0_666_4666 0 144.119
rdesr_0_0_0_21 nd_1_0_666_4666 nd_1_0_666_4666_ci 144.119
cd_0_0_0_21 nd_1_0_666_4666_ci 0 1.38774e-11
rdload_0_0_0_22 nd_1_0_2000_4666 0 116.322
rdesr_0_0_0_22 nd_1_0_2000_4666 nd_1_0_2000_4666_ci 116.322
cd_0_0_0_22 nd_1_0_2000_4666_ci 0 1.71937e-11
rdload_0_0_0_23 nd_1_0_3333_4666 0 75.365
rdesr_0_0_0_23 nd_1_0_3333_4666 nd_1_0_3333_4666_ci 75.365
cd_0_0_0_23 nd_1_0_3333_4666_ci 0 2.65375e-11
rdload_0_0_0_24 nd_1_0_4666_4666 0 243.362
rdesr_0_0_0_24 nd_1_0_4666_4666 nd_1_0_4666_4666_ci 243.362
cd_0_0_0_24 nd_1_0_4666_4666_ci 0 8.2182e-12
rdload_0_0_0_25 nd_1_0_6000_4666 0 173.837
rdesr_0_0_0_25 nd_1_0_6000_4666 nd_1_0_6000_4666_ci 173.837
cd_0_0_0_25 nd_1_0_6000_4666_ci 0 1.1505e-11
rdload_0_0_0_26 nd_1_0_7333_4666 0 134.678
rdesr_0_0_0_26 nd_1_0_7333_4666 nd_1_0_7333_4666_ci 134.678
cd_0_0_0_26 nd_1_0_7333_4666_ci 0 1.48502e-11
rdload_0_0_0_27 nd_1_0_8666_4666 0 50.569
rdesr_0_0_0_27 nd_1_0_8666_4666 nd_1_0_8666_4666_ci 50.569
cd_0_0_0_27 nd_1_0_8666_4666_ci 0 3.95499e-11
rdload_0_0_0_28 nd_1_0_666_6000 0 341.833
rdesr_0_0_0_28 nd_1_0_666_6000 nd_1_0_666_6000_ci 341.833
cd_0_0_0_28 nd_1_0_666_6000_ci 0 5.8508e-12
rdload_0_0_0_29 nd_1_0_2000_6000 0 222.205
rdesr_0_0_0_29 nd_1_0_2000_6000 nd_1_0_2000_6000_ci 222.205
cd_0_0_0_29 nd_1_0_2000_6000_ci 0 9.00069e-12
rdload_0_0_0_30 nd_1_0_3333_6000 0 164.848
rdesr_0_0_0_30 nd_1_0_3333_6000 nd_1_0_3333_6000_ci 164.848
cd_0_0_0_30 nd_1_0_3333_6000_ci 0 1.21324e-11
rdload_0_0_0_31 nd_1_0_4666_6000 0 54.047
rdesr_0_0_0_31 nd_1_0_4666_6000 nd_1_0_4666_6000_ci 54.047
cd_0_0_0_31 nd_1_0_4666_6000_ci 0 3.70048e-11
rdload_0_0_0_32 nd_1_0_6000_6000 0 106.749
rdesr_0_0_0_32 nd_1_0_6000_6000 nd_1_0_6000_6000_ci 106.749
cd_0_0_0_32 nd_1_0_6000_6000_ci 0 1.87355e-11
rdload_0_0_0_33 nd_1_0_7333_6000 0 71.2355
rdesr_0_0_0_33 nd_1_0_7333_6000 nd_1_0_7333_6000_ci 71.2355
cd_0_0_0_33 nd_1_0_7333_6000_ci 0 2.80759e-11
rdload_0_0_0_34 nd_1_0_8666_6000 0 63.6823
rdesr_0_0_0_34 nd_1_0_8666_6000 nd_1_0_8666_6000_ci 63.6823
cd_0_0_0_34 nd_1_0_8666_6000_ci 0 3.14059e-11
rdload_0_0_0_35 nd_1_0_666_7333 0 153.638
rdesr_0_0_0_35 nd_1_0_666_7333 nd_1_0_666_7333_ci 153.638
cd_0_0_0_35 nd_1_0_666_7333_ci 0 1.30176e-11
rdload_0_0_0_36 nd_1_0_2000_7333 0 52.9421
rdesr_0_0_0_36 nd_1_0_2000_7333 nd_1_0_2000_7333_ci 52.9421
cd_0_0_0_36 nd_1_0_2000_7333_ci 0 3.77771e-11
rdload_0_0_0_37 nd_1_0_3333_7333 0 102.281
rdesr_0_0_0_37 nd_1_0_3333_7333 nd_1_0_3333_7333_ci 102.281
cd_0_0_0_37 nd_1_0_3333_7333_ci 0 1.95539e-11
rdload_0_0_0_38 nd_1_0_4666_7333 0 69.2118
rdesr_0_0_0_38 nd_1_0_4666_7333 nd_1_0_4666_7333_ci 69.2118
cd_0_0_0_38 nd_1_0_4666_7333_ci 0 2.88968e-11
rdload_0_0_0_39 nd_1_0_6000_7333 0 62.4437
rdesr_0_0_0_39 nd_1_0_6000_7333 nd_1_0_6000_7333_ci 62.4437
cd_0_0_0_39 nd_1_0_6000_7333_ci 0 3.20289e-11
rdload_0_0_0_40 nd_1_0_7333_7333 0 57.0617
rdesr_0_0_0_40 nd_1_0_7333_7333 nd_1_0_7333_7333_ci 57.0617
cd_0_0_0_40 nd_1_0_7333_7333_ci 0 3.50498e-11
rdload_0_0_0_41 nd_1_0_8666_7333 0 117.014
rdesr_0_0_0_41 nd_1_0_8666_7333 nd_1_0_8666_7333_ci 117.014
cd_0_0_0_41 nd_1_0_8666_7333_ci 0 1.7092e-11
rdload_0_0_0_42 nd_1_0_666_8666 0 98.456
rdesr_0_0_0_42 nd_1_0_666_8666 nd_1_0_666_8666_ci 98.456
cd_0_0_0_42 nd_1_0_666_8666_ci 0 2.03136e-11
rdload_0_0_0_43 nd_1_0_2000_8666 0 67.6456
rdesr_0_0_0_43 nd_1_0_2000_8666 nd_1_0_2000_8666_ci 67.6456
cd_0_0_0_43 nd_1_0_2000_8666_ci 0 2.95658e-11
rdload_0_0_0_44 nd_1_0_3333_8666 0 176.503
rdesr_0_0_0_44 nd_1_0_3333_8666 nd_1_0_3333_8666_ci 176.503
cd_0_0_0_44 nd_1_0_3333_8666_ci 0 1.13312e-11
rdload_0_0_0_45 nd_1_0_4666_8666 0 55.4221
rdesr_0_0_0_45 nd_1_0_4666_8666 nd_1_0_4666_8666_ci 55.4221
cd_0_0_0_45 nd_1_0_4666_8666_ci 0 3.60867e-11
rdload_0_0_0_46 nd_1_0_6000_8666 0 51.0027
rdesr_0_0_0_46 nd_1_0_6000_8666 nd_1_0_6000_8666_ci 51.0027
cd_0_0_0_46 nd_1_0_6000_8666_ci 0 3.92136e-11
rdload_0_0_0_47 nd_1_0_7333_8666 0 47.2245
rdesr_0_0_0_47 nd_1_0_7333_8666 nd_1_0_7333_8666_ci 47.2245
cd_0_0_0_47 nd_1_0_7333_8666_ci 0 4.23509e-11
rdload_0_0_0_48 nd_1_0_8666_8666 0 759.815
rdesr_0_0_0_48 nd_1_0_8666_8666 nd_1_0_8666_8666_ci 759.815
cd_0_0_0_48 nd_1_0_8666_8666_ci 0 2.63222e-12

*-- intentional decap
cd_add_cap0 nd_1_0_2000_2000 nd0 'dcap_int_val134'
cd_add_cap1 nd_1_0_4666_2000 nd1 'dcap_int_val135'
cd_add_cap2 nd_1_0_7333_2000 nd2 'dcap_int_val136'
cd_add_cap3 nd_1_0_2000_4666 nd3 'dcap_int_val137'
cd_add_cap4 nd_1_0_4666_4666 nd4 'dcap_int_val138'
cd_add_cap5 nd_1_0_7333_4666 nd5 'dcap_int_val139'
cd_add_cap6 nd_1_0_2000_7333 nd6 'dcap_int_val140'
cd_add_cap7 nd_1_0_4666_7333 nd7 'dcap_int_val141'
cd_add_cap8 nd_1_0_7333_7333 nd8 'dcap_int_val142'
rd_add0 nd0 0 'esr13'
rd_add1 nd1 0 'esr14'
rd_add2 nd2 0 'esr15'
rd_add3 nd3 0 'esr16'
rd_add4 nd4 0 'esr17'
rd_add5 nd5 0 'esr18'
rd_add6 nd6 0 'esr19'
rd_add7 nd7 0 'esr20'
rd_add8 nd8 0 'esr21'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_4_5 nd_pad_port_4_5 nd_pad_4_5 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_5_4 nd_pad_port_5_4 nd_pad_5_4 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_2000_3333  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_2000_6000  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_2000_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3333_2000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3333_4666  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3333_7333  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_4666_3333  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_4666_6000  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_4666_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_6000_2000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_6000_4666  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_6000_7333  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_7333_3333  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_7333_6000  0.001
rd_pad2via_4_5 nd_pad_4_5 nd_2_0_7333_8666  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_8666_2000  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_8666_4666  0.001
rd_pad2via_5_4 nd_pad_5_4 nd_2_0_8666_7333  0.001

.ends chiplet3
